US06995144B2
1-(tert-Butoxycarbonyl)-4-hydroxy-4-(2-methylphenoxymethyl)piperidine
After dissolving 120 mg of 6-(tert-butoxycarbonyl)-1-oxa-6-azaspiro[2.5]octane in 10 ml of N,N-dimethylformamide, 67 mg of 2-methylphenol and 86 mg of potassium carbonate were added and the mixture was stirred at 150° C. for 5 hours. After cooling it to room temperature, water was added and extraction was performed with ethyl acetate. The extract was dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (156 mg, 86% yield).

reactant | 6-(tert-butoxycarbonyl)-1-oxa-6-azaspiro[2.5]octane | 120 mg | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
reactant | 2-methylphenol | 67 mg | CC1=C(C=CC=C1)O | C7H8O
reactant | potassium carbonate | 86 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(tert-Butoxycarbonyl)-4-hydroxy-4-(2-methylphenoxymethyl)piperidine | 156 mg, 86% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(COC1=C(C=CC=C1)C)O | C18H27NO4
